US05977365
5-{4-(3-Methylimidazo[5,4-d]pyrimidin-2-ylmethoxy)benzyl]thiazolidine-2,4-dione (Compound No. 1-158)
A procedure similar to that described in Example 12 was repeated, except that 0.24 g of 5-{4-(3-methylimidazo[5,4-d]pyrimidin-2-ylmethoxy)benzyl]-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 51) and 8 ml of a 3:1 by volume mixture of acetic acid and water were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a gradient elution method, with mixtures of ethyl acetate and ethanol in ratios ranging from 1:0 to 10:1 by volume as the eluent, to give 30 mg of the title compound, melting at 245-246° C.

reactant | 5-{4-(3-methylimidazo[5,4-d]pyrimidin-2-ylmethoxy)benzyl]-3-triphenylmethylthiazolidine-2,4-dione | 0.24 g | CN1C(=NC2=C1N=CN=C2)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2 | C36H29N5O3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-{4-(3-Methylimidazo[5,4-d]pyrimidin-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | CN1C(=NC2=C1N=CN=C2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C17H15N5O3S
